US03974287
Preparation of 2-(4-Chlorophenyl)benzothiazoline
2-Aminothiophenol (12.5 g, 0.1 mole) and 14.1 g (0.1 mole) p-chlorobenzaldehyde were combined in an Erlenmeyer flask at room temperature. The aldehyde dissolved in the mixture which became cloudy after a few minutes. Heat was evolved and the mixture gradually solidified. The product was recrystallized from ethanol yielding 18.0 g (73%) pale yellow crystals, mp. 85°-87°.

reactant | 2-Aminothiophenol | 0.1 mole, 12.5 g | NC1=C(C=CC=C1)S | C6H7NS
reactant | p-chlorobenzaldehyde | 0.1 mole, 14.1 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
product | 2-(4-Chlorophenyl)benzothiazoline | ClC1=CC=C(C=C1)C=1SC2=C(N1)C=CC=C2 | C13H8ClNS
